US08217069B2
5-Benzylthio-2-chloroaniline
To a solution of 2-chloro-5-mercaptoaniline (0.64 g) and benzyl bromide (0.52 mL) in N,N-dimethylformamide (10 mL) was added potassium carbonate (0.61 g), and the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane−n-hexane/ethyl acetate=7/3) to give the title compound (0.37 g).

reactant | 2-chloro-5-mercaptoaniline | 0.64 g | ClC1=C(N)C=C(C=C1)S | C6H6ClNS
reactant | benzyl bromide | 0.52 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 0.61 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 5-Benzylthio-2-chloroaniline | 0.37 g | C(C1=CC=CC=C1)SC=1C=CC(=C(N)C1)Cl | C13H12ClNS
